US05336778
Step D: 3-n-Butyl-5-(carbomethoxymethylthio)-4-(4-nitrobenzyl)-4H-1,2,4-triazole
A stirred solution of 2.00 g (6.84 mmole) of 5-n-butyl-2,4-dihydro-4-(4-nitrobenzyl)-3H-1,2,4-triazole-3-thione in 10 ml of 2-methoxyethanol was treated with 2.38 ml (1.77 g, 13.7 mmole) of N,N-disopropylethylamine followed by 1.20 ml (1.48 g, 13.7 mmole) of methyl chloroacetate. The solution was stirred at room temperature under N2 for 2 hours and then concentrated in vacuo at 45° C. The residual oil was partioned between 70 ml of ethyl acetate and 70 ml of H2O. The organic phase was washed with 70 ml of H2O and then with 50 ml of saturated NaCl solution. The ethyl acetate solution was dried (MgSO4), filtered, concentrated and dried in vacuo to yield 2.50 g (100%) of the titled compound as an oil, homogenous by TLC in 19:1 CH2Cl2 --MeOH; mass spectrum (FAB) m/e 365 (M+1 )+.

reactant | 5-n-butyl-2,4-dihydro-4-(4-nitrobenzyl)-3H-1,2,4-triazole-3-thione | 6.84 mmole, 2.00 g | C(CCC)C=1N(C(NN1)=S)CC1=CC=C(C=C1)[N+](=O)[O-] | C13H16N4O2S
reactant | methyl chloroacetate | 13.7 mmole, 1.20 ml, 1.48 g | ClCC(=O)OC | C3H5ClO2
solvent | 2-methoxyethanol | 10 ml | COCCO | C3H8O2
product | 3-n-Butyl-5-(carbomethoxymethylthio)-4-(4-nitrobenzyl)-4H-1,2,4-triazole | 2.50 g, 100% | C(CCC)C1=NN=C(N1CC1=CC=C(C=C1)[N+](=O)[O-])SCC(=O)OC | C16H20N4O4S
